US07141669B2
Preparation of Intermediate Trifluoromethanesulfonic acid 2,2-difluoropropyl ester (I-4A-4c)
To a solution of 2,2-difluoro-propan-1-ol (I-4A-4b, 1.76 g, 18.3 mmol), DMAP (157 mg, 1.3 mmol), and NEt3 (2.20 g, 3.1 ml, 22 mmol) in CH2Cl2 (15 ml) at 0° C. was added trifluoromethanesulfonic anhydride (Tf2O, 6.20 g, 3.7 ml, 22 mmol). The reaction mixture initially turned a pink color, then a yellow color following the complete addition of Tf2O. The reaction mixture was stirred at 0° C. for 2 h and diluted with CH2Cl2. The organic solution was washed with H2O, 1 M citric acid, and saturated aqueous NaHCO3, dried, and concentrated under reduced pressure (225 mm/Hg; water bath temperature −30° C.) to give the desired product, trifluoromethanesulfonic acid 2,2-difluoro-propyl ester (I-4A-4c), as a pink oil (3 g, 72%): 1H NMR (400 MHz, CDCl3): δ 4.49 (t, 2H, J=10.8 Hz), 1.74 (t, 3H).

reactant | 2,2-difluoro-propan-1-ol | 18.3 mmol, 1.76 g | FC(CO)(C)F | C3H6F2O
reactant | NEt3 | 22 mmol, 3.1 ml, 2.20 g | CCN(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 22 mmol, 3.7 ml, 6.20 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Tf2O | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
catalyst | DMAP | 1.3 mmol, 157 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 2,2-difluoro-propyl ester | FC(COS(=O)(=O)C(F)(F)F)(C)F | C4H5F5O3S
